US07521446B2
Synthesis of (4-{8-[(2-Fluorophenyl)amino]-2-[(4-methoxyphenyl)amino]purin-9-yl}trans-cyclohexyl)methan-1-ol
Ethyl 4-{8-[(2-fluorophenyl)amino]-2-[(4-methoxyphenyl)amino]purin-9-yl}-trans-cyclohexanecarboxylate (0.28 g, 0.55 mmol) was dissolved in 9 mL of THF and cooled to 0° C. (under nitrogen atmosphere). 1.38 mL of 1.0M LiAlH4 in THF was added dropwise. The solution turned a dark orange as the LiAlH4 was added. The reaction mixture was stirred for about 5 h and quenched by the addition of 40 mL of water. The reaction was extracted three times with ethyl acetate. Organics were combined and dried with magnesium sulfate, filtered and the solvent was removed in vacuo. The crude reaction mixture was then purified using reverse-phase preparative HPLC (20-80% acetonitrile/water (0.1% TFA) over 30 min) to obtain 0.126 g of the desired product (50% yield) after neutralization of the TFA salt. ES-MS: 463 (M+1).

reactant | Ethyl 4-{8-[(2-fluorophenyl)amino]-2-[(4-methoxyphenyl)amino]purin-9-yl}-trans-cyclohexanecarboxylate | 0.55 mmol, 0.28 g | FC1=C(C=CC=C1)NC=1N(C2=NC(=NC=C2N1)NC1=CC=C(C=C1)OC)[C@@H]1CC[C@H](CC1)C(=O)OCC | C27H29FN6O3
reactant | LiAlH4 | 1.0M, 1.38 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | 9 mL | C1CCOC1 | C4H8O
product | (4-{8-[(2-Fluorophenyl)amino]-2-[(4-methoxyphenyl)amino]purin-9-yl}trans-cyclohexyl)methan-1-ol | 0.126 g, 50% yield | FC1=C(C=CC=C1)NC=1N(C2=NC(=NC=C2N1)NC1=CC=C(C=C1)OC)[C@@H]1CC[C@H](CC1)CO | C25H27FN6O2
